US04024164
2-Benzoyloxyethyl oleate
2-Benzoyloxyethyl oleate was prepared by the procedure of Example 1 from 16 gms (0.1 mole) of ethylene glycol monobenzoate and 30 gms (0.1 mole) of oleoyl chloride. The structure of the final product was characterized on the basis of NMR and IR spectral analyses as described in Example 1.

reactant | ethylene glycol monobenzoate | 0.1 mole, 16 gms | C(C1=CC=CC=C1)(=O)OCCO | C9H10O3
reactant | oleoyl chloride | 0.1 mole, 30 gms | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
product | 2-Benzoyloxyethyl oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCCOC(C1=CC=CC=C1)=O | C27H42O4
